US06432982B1
[2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-cyanophenyl]methanone Hydrochloride
1.6 g of the title compound was prepared from 1.45 g (3.49 mmol) of [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-cyano-4-hydroxyphenyl]methanone, 1.3 g(7 mmol) of 1-(2-chloroethyl)piperidine, and 4.9 g (15 mmol) of Cs2CO3 in a manner similar to that in Preparation 2.

reactant | [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-cyano-4-hydroxyphenyl]methanone | 3.49 mmol, 1.45 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C=C2)O)C#N | C24H17NO4S
reactant | 1-(2-chloroethyl)piperidine | 7 mmol, 1.3 g | ClCCN1CCCCC1 | C7H14ClN
reactant | Cs2CO3 | 15 mmol, 4.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
product | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-cyanophenyl]methanone Hydrochloride | 1.6 g | Cl.COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C=C2)OCCN2CCCCC2)C#N | InChI=1S/C31H30N2O4S.ClH/c1-35-24-9-6-21(7-10-24)31-29(26-12-11-25(36-2)19-28(26)38-31)30(34)22-8-13-27(23(18-22)20-32)37-17-16-33-14-4-3-5-15-33;/h6-13,18-19H,3-5,14-17H2,1-2H3;1H
